US09352049B2
To benzyl 5-(1-hydroxysilinan-1-yl)pentanoate (205 mg, 0.669 mmol) in ethanol (6 mL), palladium on activated carbon (10%, wet, 41 mg) was added. The reaction was stirred under hydrogen (1 atm) at room temperature for 16 hours. After this time, the reaction was filtered through Celite® and the filter cake washed with methanol. The filtrate was concentrated under reduced pressure to afford 5-(1-hydroxysilinan-1-yl)pentanoic acid (140 mg, 97%) as a colorless oil. 1H NMR (500 MHz, CDCl3) δ Exchangeable protons not observed (2H), 2.38-2.32 (m, 2H), 1.78-1.61 (m, 6H), 1.48-1.31 (m, 4H), 0.80-0.54 (m, 6H); ESI MS m/z=215 [M−H]−.

reactant | benzyl 5-(1-hydroxysilinan-1-yl)pentanoate | 0.669 mmol, 205 mg | O[Si]1(CCCCC1)CCCCC(=O)OCC1=CC=CC=C1 | C17H26O3Si
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | palladium on activated carbon | 41 mg | [Pd] | Pd
product | 5-(1-hydroxysilinan-1-yl)pentanoic acid | 140 mg, 97% | O[Si]1(CCCCC1)CCCCC(=O)O | C10H20O3Si
